US04005132
t-Butylamino-diethyl borane
A mixture of 14.6 g. (0.2 moles) of t-butylamine and about 30 g. (0.3 moles) of triethyl borane after addition of about 1 g. of diethyl boryl pivalate is heated to 60° to 80° C. with stirring. Within 2.5 hours, 6.2 normal liters (92%) of ethane are evolved. Distillation under vacuum gives 24 g. (85%) of pure t-butylamino-diethyl borane boiling at 45° C./18 mm. Hg after having collected unconsumed triethyl borane. The residue weighs about 1 g.

reactant | t-butylamine | 0.2 moles | C(C)(C)(C)N | C4H11N
reactant | triethyl borane | 0.3 moles | C(C)B(CC)CC | C6H15B
reactant | ethane | CC | C2H6
product | t-Butylamino-diethyl borane | C(C)(C)(C)NB(CC)CC | C8H20BN
